US07700641B2
C. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (81%) as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 9.67 (br, 1H), 7.39-7.29 (m, 2H), 7.18-7.13 (m, 1H), 6.94 (d, 1H), 6.62 (s, 1H), 6.32 (s, 1H), 5.84 (dd, 2H), 5.01 (s, 1H), 3.71-3.63 (m, 2H), 1.71-1.61 (m, 2H), 1.35-1.27 (m, 4H), 0.86 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 178.8, 151.3, 147.6, 143.9, 141.53, 128.7, 126.4, 126.2, 123.1, 115.3, 109.4, 106.5, 101.5, 101.2, 47.4, 40.5, 28.9, 26.9, 22.3, 13.9; MS (ES+) m/z 340 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | OC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H21NO5
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CCCCC)=O | C20H21NO4
